US05521173
10-[(6-Iodo-3-pyridinyl)carbonyl]-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine
To a solution of 1.0 g of 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine and 10 ml of triethylamine in 50 ml of dichloromethane under argon is added 3.2 g of 6-iodopyridine-3-carbonyl chloride. The mixture is stirred at room temperature for 16 hours and then poured into 100 ml of water. The organic layer is separated and washed with 2% HCl, water, saturated NaHCO3 and dried (Na2SO4). The solvent is removed under vacuum and the residue chromatographed on silica gel with ethyl acetate-hexane as solvent to give the product as a solid.

reactant | 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 1.0 g | C=1C=CN2C1CNC1=C(C2)C=CC=C1 | C12H12N2
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
reactant | 6-iodopyridine-3-carbonyl chloride | 3.2 g | IC1=CC=C(C=N1)C(=O)Cl | C6H3ClINO
reactant | water | 100 ml | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 10-[(6-Iodo-3-pyridinyl)carbonyl]-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine | IC1=CC=C(C=N1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C18H14IN3O
